US04859684
To a stirred and cooled solution of 5.3 parts of 4-[(1H-imidazol-1-yl)phenylmethyl]-1,2-benzenediamine in 50 parts of acetic acid were added 3.3 parts of methyl 2-pyridinecarboximidate while still cooling. The whole was stirred for 8 hours at room temperature and then allowed to stand over weekend. The reaction mixture was evaporated. The residue was taken up in water and treated with activated charcoal. The whole was filtered and the filtrate was made alkaline with ammonium hydroxide. The product was filtered off and purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was dried in vacuo for 24 hours at 50° C., yielding 2.8 parts (40%) of 5-[(1H-imidazol-1-yl)phenylmethyl]-2-(2-pyridinyl)-1H-benzimidazole; mp. 123.3° C. (compound 201).

reactant | 4-[(1H-imidazol-1-yl)phenylmethyl]-1,2-benzenediamine | N1(C=NC=C1)C(C=1C=C(C(=CC1)N)N)C1=CC=CC=C1 | C16H16N4
reactant | methyl 2-pyridinecarboximidate | N1=C(C=CC=C1)C(OC)=N | C7H8N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[(1H-imidazol-1-yl)phenylmethyl]-2-(2-pyridinyl)-1H-benzimidazole | 40% | N1(C=NC=C1)C(C1=CC2=C(NC(=N2)C2=NC=CC=C2)C=C1)C1=CC=CC=C1 | C22H17N5
